US06251926B1
A solution of ethyl 5-phenylisoxazole-3-carboxylate (20.0 g) in diethyl ether (50 ml) was added dropwise to a mixture of lithium aluminium hydride (2.62 g) in diethyl ether (50 ml) at 0° C. After stirring for 1 hour, water was added to the reaction mixture carefully, followed by addition of 1N hydrochloric acid (200 ml) and extraction with ethyl acetate. The ethyl acetate layer was washed with an aqueous saturated solution of sodium chloride, dried (MgSO4) and concentrated. The remaining crystals were recrystallized from ethyl acetate-hexane to obtain (5-phenyl-3-isoxazolyl)methanol (15.2 g, yield 94%) as pale-brown crystals. m.p. 101-102° C.

reactant | ethyl 5-phenylisoxazole-3-carboxylate | 20.0 g | C1(=CC=CC=C1)C1=CC(=NO1)C(=O)OCC | C12H11NO3
reactant | lithium aluminium hydride | 2.62 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | water | O | H2O
reactant | hydrochloric acid | 1N, 200 ml | Cl | ClH
solvent | diethyl ether | 50 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 50 ml | C(C)OCC | C4H10O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (5-phenyl-3-isoxazolyl)methanol | 15.2 g, yield 94% | C1(=CC=CC=C1)C1=CC(=NO1)CO | C10H9NO2
